US07906645B2
4-tert-Butylmorpholine-2-carbaldehyde
A solution of oxalyl chloride (0.097 mL) in dichloromethane (10 mL) was cooled to −78° C. under argon. A solution of dimethylsulfoxide (0.201 mL) in dichloromethane (5 mL) was added dropwise and the mixture was stirred for 5 minutes. A solution of (4-tert-butylmorpholin-2-yl)methanol (175 mg) in dichloromethane (3 mL) was added and the mixture was stirred for 15 minutes. Triethylamine (0.845 mL) was added and the mixture was warmed to room temperature. The reaction was quenched with water and partitioned between water and dichloromethane. The organic layer was dried (Na2SO4), filtered and concentrated to give an orange oil (165 mg). This material was used immediately in the next stage without further purification or analysis.

reactant | oxalyl chloride | 0.097 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.201 mL | CS(=O)C | C2H6OS
reactant | (4-tert-butylmorpholin-2-yl)methanol | 175 mg | C(C)(C)(C)N1CC(OCC1)CO | C9H19NO2
reactant | Triethylamine | 0.845 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-tert-Butylmorpholine-2-carbaldehyde | 165 mg | C(C)(C)(C)N1CC(OCC1)C=O | C9H17NO2
